US06034239
N-[2-(5-Hydroxyindol-3-yl)ethyl]propionamide
To a solution of serotonin hydrochloride (10 g, 47.5 mmol.) in water (50 mL) were added, under argon atmosphere, tetrahydrofuran (20 mL) and a solution of sodium carbonate (5.3 g) in water (20 mL). The mixture was cooled to 0° C., to which was added propionic anhydride (6.2 g, 49.9 mmol.). The mixture was stirred for 2 hours at room temperature. The reaction mixture was subjected to extraction with ethyl acetate. The extract solution was washed with 1N HCl, a saturated aqueous solution of sodium hydrogencarbonate and water, which was dried and then concentrated to afford the title compound (yield 10.0 g, 98.0%) as an oily product. This compound was used, without refining further, for the subsequent reaction.

reactant | serotonin hydrochloride | 47.5 mmol, 10 g | C1=CC2=C(C=C1O)C(=CN2)CCN.Cl
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | sodium carbonate | 5.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | propionic anhydride | 49.9 mmol, 6.2 g | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | water | 50 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | N-[2-(5-Hydroxyindol-3-yl)ethyl]propionamide | yield 10.0 g, 98.0% | OC=1C=C2C(=CNC2=CC1)CCNC(CC)=O | C13H16N2O2
